US05128230
A mixture comprising of 72.lg 1-naphthol, 84.1 g 2,6-bis(hydroxymethyl)-p-cresol, 5.0 g oxalic acid dihydrate and 150 ml ethyl cellosolve acetate in a 0.5-L resin kettle, equipped as in Example 1, was heated to initiate the condensation reaction substantially forming the 1-naphthol-methylene-p-cresol block segments. An exothermic reaction resulted, reaching a peak temperature of about 120° C. The reaction mixture was allowed to reflux for about 2 hours, 108.1 g m-cresol and 48.8 g of 36.9 percent formaldehyde were added, and the condensation mixture again allowed to reflux for about 2 hours. The volatiles present in the reaction mixture were removed by distillation and stripping as described in Example 1. About 201 g of resin having a Tg of about 121° C. and a Mn of 1940 Daltons was obtained.

reactant | 1-naphthol | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | 2,6-bis(hydroxymethyl)-p-cresol | 84.1 g | OCC1=CC(=CC(=C1O)CO)C | C9H12O3
reactant | oxalic acid dihydrate | 5.0 g | O.O.C(C(=O)O)(=O)O
solvent | ethyl cellosolve acetate | 150 ml | CCOCCOC(=O)C | C6H12O3
product | 1-naphthol methylene-p-cresol | C1(=CC=CC2=CC=CC=C12)O.C=CC=1C=CC(=CC1)O | InChI=1S/C10H8O.C8H8O/c11-10-7-3-5-8-4-1-2-6-9(8)10;1-2-7-3-5-8(9)6-4-7/h1-7,11H;2-6,9H,1H2
